US07384934B2
2-(4-Chloro-2-nitro-phenylamino)-5-methyl-thiophene-3-carbonitrile
Stir in a 3 neck 500 mL round bottom flask, 2-amino-5-methyl-thiophene-3-carbonitrile (124.11 g, 0.898 mol, 1 eauiv.), 1,4-dichloro-2-nitro-benzene (174.15 g, 0.907 mol, 1.01 equiv), and DMSO (1.6 L, 13 vol)) for 15 min. (dark solution). Charge in one portion, LiOH H2O (75.37 g, 1.796 mol, 2 equiv). Began to exotherm from 20.4° C. to 25.5° C. over 10 minutes. After 30 minutes temp reaches 28.1° C. and at 1 hour 30.4° C. Place tap water in the bath around the flask to control the exotherm. Check HPLC at 23 h, which shows 81.2% of desired product. Let continue to stir at ambient temperature for greater reaction conversion. Check HPLC at 39 h, which shows 83.5% of one product. Let stir 40 hours total. Cool with ice/water bath to 17° C. Begin pH adjustment by slowly adding 1 N HCl (1020 mL) to reach pH=7.1. Keep exotherm is at 15-22° C. during the addition. Workup includes: pouring reaction mixture into 22 L bottom outlet flask, rinsing in with CH2Cl2 (5.6 L) and 5% LiCl solution (3.6 L), stirring about 10 min., and allowing layers to separate. The lower layer might be darker than upper layer. Back-extract the aqueous layer with CH2Cl2 (1.5 L). Combine organic layers and wash with 5% LiCl solution (3×1.3 L). Dry organic layer with Na2SO4 (800 g) allowing it to stir 1 hour, filter and evaporate to dryness. Wt.=376 g. Back-extract the combined aqueous layers with CH2Cl2 (0.5 L). Check aq layer by HPLC ˜2 mL aq layer in 15 mL of eluent for product in aq layer. Wash the organic phase with brine (2×500 mL) and finally with 5% LiCl (500 mL). Dry over the weekend with NaSO4 (80 g). Filter and add to other organic layer. For Chromatography, dissolve crude material in methylene chloride (950 g) and charge to a silica gel 60 (2.8 kg pre wetted with heptane) bed on fritted funnel. Some product might crash out on top of silica cake. Rinse flask and add to top of cake with CH2Cl2 (0.3 L) until all of the precipitate is dissolve and onto the column. Elute with heptane (˜16 L), then 25% CH2Cl2 in heptane (˜8 L), then 37.5% CH2Cl2 in heptane (˜8 L), follow by 50% CH2Cl2 in heptane and 100% CH2Cl2. Early Fractions might contain no product. Identify mix fractions containing product and rundown separately until virtually all methylene chloride is gone leaving the product in heptane, cool to 0° C. and filter. Filtrate analysis shows 5% product by area % integration. Combine product only fractions and evaporate to dryness. Add cake from mixed fractions. Combined dry weight=197.4 g. HPLC area percent=97.0% NMR is consistent with desired procduct: Yield 74.8%.

reactant | 2-amino-5-methyl-thiophene-3-carbonitrile | 0.898 mol, 124.11 g | NC=1SC(=CC1C#N)C | C6H6N2S
reactant | 1,4-dichloro-2-nitro-benzene | 0.907 mol, 174.15 g, 1.01 equiv | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | DMSO | 1.6 L | CS(=O)C | C2H6OS
reactant | LiOH H2O | 1.796 mol, 75.37 g, 2 equiv | O[Li].O
solvent | water | O | H2O
product | 2-(4-Chloro-2-nitro-phenylamino)-5-methyl-thiophene-3-carbonitrile | 81.2% | ClC1=CC(=C(C=C1)NC=1SC(=CC1C#N)C)[N+](=O)[O-] | C12H8ClN3O2S
